US08183271B2
Triphenyl[2-(5-phenylpentyloxy)benzyl]phosphonium bromide
A solution of 18.7 g (69.16 mmol) of [2-(5-phenylpentyloxy)phenyl]methanol in 120 ml of acetonitrile is mixed with 22.55 g (65.71 mmol) of triphenylphosphonium bromide and heated under reflux for 3 hours. The reaction solution is then concentrated to dryness. 36.6 g (61.45 mmol, 83% of theory) of crystalline product are obtained and are reacted without further purification.

reactant | [2-(5-phenylpentyloxy)phenyl]methanol | 69.16 mmol, 18.7 g | C1(=CC=CC=C1)CCCCCOC1=C(C=CC=C1)CO | C18H22O2
reactant | triphenylphosphonium bromide | 65.71 mmol, 22.55 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | Triphenyl[2-(5-phenylpentyloxy)benzyl]phosphonium bromide | [Br-].C1(=CC=CC=C1)[P+](CC1=C(C=CC=C1)OCCCCCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C36H36OP.BrH/c1-6-18-31(19-7-1)20-8-5-17-29-37-36-28-16-15-21-32(36)30-38(33-22-9-2-10-23-33,34-24-11-3-12-25-34)35-26-13-4-14-27-35;/h1-4,6-7,9-16,18-19,21-28H,5,8,17,20,29-30H2;1H/q+1;/p-1
